US04168311
2,6-dimethyl-4-dimethylaminocarbonyloxy-pyridine
30,8 g (0,25 mole) of 2,6-dimethyl-4-hydroxypyridine were suspended in 500 ml of acetonitrile, 69 g (0,5 mole) of potassium carbonate were added and the mixture was heated to reflux temperature for 2 hours. Subsequently 47 g (0,44 mole) of dimethylcarbamic acid chloride were added at an interior temperature of approximately 60°-70° C. and the mixture was maintained for two hours at about 80° C.

reactant | 2,6-dimethyl-4-hydroxypyridine | 0,25 mole, 30,8 g | CC1=NC(=CC(=C1)O)C | C7H9NO
reactant | potassium carbonate | 0,5 mole, 69 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylcarbamic acid chloride | 0,44 mole, 47 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 2,6-dimethyl-4-dimethylaminocarbonyloxy-pyridine | CC1=NC(=CC(=C1)OC(=O)N(C)C)C | C10H14N2O2
